US08536209B2
5-Phenyl-oxazole-4-carboxylic acid [2-(4-acetyl-oxazol-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A, starting from 1-[2-(4-amino-[1,2,3]triazol-2-ylmethyl)-oxazol-4-yl]-ethanone and 5-phenyl-oxazole-4-carboxylic acid.

reactant | 1-[2-(4-amino-[1,2,3]triazol-2-ylmethyl)-oxazol-4-yl]-ethanone | NC1=NN(N=C1)CC=1OC=C(N1)C(C)=O | C8H9N5O2
reactant | 5-phenyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)O | C10H7NO3
product | 5-Phenyl-oxazole-4-carboxylic acid [2-(4-acetyl-oxazol-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C=1N=C(OC1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC=CC=C1 | C18H14N6O4
